US05300506
A solution of 5-ethanesulfonylamino-1H-indole (8.0 g, 36 mmol), acrylic acid (5.15 g, 71 mmol), and acetic anhydride (7.3 g, 71 mmol) in 35 mL of acetic acid was heated at 90° C. for 20 h. The volatile materials were removed under high vacuum at 90° C. The remaining residue was dissolved in 1N NaOH and subsequently acidified to pH 1 with concentrated HCl. The aqueous solution was then extracted with five portions of ethyl acetate. The organic extracts were combined, dried over anhydrous MgSO4, filtered, and concentrated in vacuo to yield 3-(5-ethanesulfonylamino-1H-indol-3-yl)propanoic acid (10.6 g of crude material). NMR and mass spectral analysis indicated the presence of the desired product. No attempt was made to purify this material; it was immediately subjected to reduction as described below.

reactant | 5-ethanesulfonylamino-1H-indole | 36 mmol, 8.0 g | C(C)S(=O)(=O)NC=1C=C2C=CNC2=CC1 | C10H12N2O2S
reactant | acrylic acid | 71 mmol, 5.15 g | C(C=C)(=O)O | C3H4O2
reactant | acetic anhydride | 71 mmol, 7.3 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
product | 3-(5-ethanesulfonylamino-1H-indol-3-yl)propanoic acid | 10.6 g | C(C)S(=O)(=O)NC=1C=C2C(=CNC2=CC1)CCC(=O)O | C13H16N2O4S
